US07943610B2
Acetyl chloride (0.27 g, 0.24 mL, 3.39 mmol) was added to a stirring suspension of N1-(2-piperidin-4-ylethyl)-2-propyl-2H-pyrazolo[3,4-c]quinoline-1,4-diamine dihydrochloride (1.2 g, 2.83 mmol) and triethylamine (2.9 g, 3.9 mL, 28.3 mmol) in dichloromethane (100 mL). After 10 minutes, 1-methyl-2-pyrrolidinone (15 mL) was added and the resulting suspension was stirred at ambient temperature 16 hours. Additional acetyl chloride (0.27 g, 0.24 mL, 3.39 mmol) was added and the suspension was stirred at ambient temperature 4 hours. The dichloromethane was removed under reduced pressure and water (100 mL) was added to the resulting oil. The solution was transferred to a separatory funnel and extracted with ethyl acetate (2×50 mL) and dichloromethane (50 mL). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Methanol (20 mL) and sodium hydroxide (10 mL, 1 N in water) were added to the resulting oil and the suspension was stirred one hour. The methanol was removed under reduced pressure and the aqueous layer was neutralized with hydrochloric acid (1 N in water) and extracted with dichloromethane (3×50 mL). The combined organic fractions were dried over magnesium sulfate, filtered and concentrated under reduced pressure to 7.5 g of a yellow oil. Sodium carbonate (75 mL, 10% w/w in water) was added to this oil and a brown gum crashed out and stuck to the sides of the flask. The liquid was decanted off and the remaining gum was crystallized from hot acetonitrile (50 mL) and isolated by filtration to yield 242 mg of N1-[2-(1-acetylpiperidin-4-yl)ethyl]-2-propyl-2H-pyrazolo[3,4-c]quinoline-1,4-diamine as a tan solid. mp 203-206° C. Anal. calcd for C22H30N6O: C, 66.98; H, 7.66; N, 21.30. Found: C, 66.92; H, 7.92; N, 21.57.

reactant | Acetyl chloride | 3.39 mmol, 0.24 mL, 0.27 g | C(C)(=O)Cl | C2H3ClO
reactant | N1-(2-piperidin-4-ylethyl)-2-propyl-2H-pyrazolo[3,4-c]quinoline-1,4-diamine dihydrochloride | 2.83 mmol, 1.2 g | Cl.Cl.N1CCC(CC1)CCNC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCC
reactant | triethylamine | 28.3 mmol, 3.9 mL, 2.9 g | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-2-pyrrolidinone | 15 mL | CN1C(CCC1)=O | C5H9NO
reactant | acetyl chloride | 3.39 mmol, 0.24 mL, 0.27 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N1-[2-(1-acetylpiperidin-4-yl)ethyl]-2-propyl-2H-pyrazolo[3,4-c]quinoline-1,4-diamine | 242 mg | C(C)(=O)N1CCC(CC1)CCNC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCC | C22H30N6O
